US05104890
A mixture of trans-3-bromo-3,4-dihydro-2,2-dimethyl-4-hydroxy-2H-1-benzopyran-6-carbaldehyde (6.9 g), potassium carbonate (6.7 g), and dimethylformamide (24 ml) was stirred at room temperature for 48 hours and followed by at 35° C. for 24 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by recrystallization from diisopropyl ether to give 3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-1-benzopyran-6-carbaldehyde (2.9 g).

reactant | trans-3-bromo-3,4-dihydro-2,2-dimethyl-4-hydroxy-2H-1-benzopyran-6-carbaldehyde | 6.9 g | Br[C@@H]1C(OC2=C([C@H]1O)C=C(C=C2)C=O)(C)C | C12H13BrO3
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-1-benzopyran-6-carbaldehyde | 2.9 g | CC1(OC2=C(C3C1O3)C=C(C=C2)C=O)C | C12H12O3
